US08252931B2
The title I compound, 3-(benzofuran-2-ylmethyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid benzyl ester (280 mg, 0.372 mmol) is dissolved in THF. To this is added a solution of sodium hydroxide (22 mg, 0.558 mmol) in water. The reaction is stirred at RT overnight. LC/MS indicates ˜80% reaction completion and, therefore, more sodium hydroxide (10 mg, 0.250 mmol) is added. After 2 h of stirring at RT, the reaction is acidified to pH 1 with concentrated hydrochloric acid, then concentrated to remove solvent. The residue is diluted with ethyl acetate and water. The organic layer is separated, dried over anhydrous sodium sulfate, filtered, and concentrated to afford the crude product as a yellow foam. Purification by preparative HPLC affords 3-(benzofuran-2-ylmethyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid as a white solid: 1H NMR (400 MHz, DMSO-D6) δ 1.4 (m, 2 H) 1.6 (m, 3 H) 1.7 (m, 3 H) 2.1 (m, 1H) 3.35 (m, 1 H) 3.9 (s, 3 H) 4.0 (m, 1 H) 4.6 (s, 2 H) 6.7 (s, 1 H) 6.9 (d, J=8.8 Hz, 1 H) 7.1 (m, 2 H) 7.3 (m, 2 H) 7.5 (dt, J=4.3, 2.1 Hz, 1 H) 7.6 (d, J=8.3 Hz, 2 H) 7.8 (d, J=8.6 Hz, 2 H) 8.0 (d, J=8.8 Hz, 1 H) 12.7 (s, 1 H); LC/MS 663.5 (M+1), 661.5 (M−1). EC50 in primary enzyme assay 0.22 μM.

reactant | 3-(benzofuran-2-ylmethyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid benzyl ester | 0.372 mmol, 280 mg | C(C1=CC=CC=C1)OC(CCN(S(=O)(=O)C1=CC=C(C=C1)[C@@H](CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)OC)=O)CC=1OC2=C(C1)C=CC=C2)=O | C40H40N4O7S2
reactant | sodium hydroxide | 0.558 mmol, 22 mg | [OH-].[Na+]
reactant | sodium hydroxide | 0.250 mmol, 10 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(benzofuran-2-ylmethyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid | O1C(=CC2=C1C=CC=C2)CN(CCC(=O)O)S(=O)(=O)C2=CC=C(C=C2)[C@@H](CC2CCCC2)C(NC=2SC1=NC(=CC=C1N2)OC)=O | C33H34N4O7S2
